US06919338B2
N-(tert-butyloxycarbonyl)-3-chloro-4-fluoroaniline
3-chloro-4-fluoroaniline (2 g, 13.7 mmol) in THF (12.5 ml) under argon, was treated with NaHMDS (1 M, 27.5 ml, 27.5 mmol) at room temperature for 15 minutes. Di-tert-butyl dicarbonate in THF (10 ml) was slowly added to the reaction mixture, and the mixture stirred at room temperature for 45 minutes. The solvent was evaporated, diluted HCl (0.1N) was added, and the mixture extracted with ethylacetate, dried, purified by silica gel chromatography, ether/petroleum ether 10-20/90-80 to give title compound (2.77 g, 82%).

reactant | 3-chloro-4-fluoroaniline | 13.7 mmol, 2 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | NaHMDS | 27.5 mmol, 1 M, 27.5 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | Di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 12.5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-(tert-butyloxycarbonyl)-3-chloro-4-fluoroaniline | 2.77 g, 82% | C(C)(C)(C)OC(=O)NC1=CC(=C(C=C1)F)Cl | C11H13ClFNO2
